US09102637B2
1-{4-[4-carbamoyl-2-(naphthalen-2-ylamino)thiazol-5-ylcarbamoyl]benzyl}pyridinium chloride
To a solution of 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide (0.18 g, 0.62 mmol) and a catalytic amount of DMAP in pyridine (5 mL) was added 4-chloromethylbenzoyl chloride (0.13 g, 0.68 mmol) at 0° C. under N2-atmosphere. The mixture was stirred for 16 hrs at rt under nitrogen atmosphere. The solvent was evaporated, and the residue was triturated with water. The resulting solids were collected by filtration and washed with MeOH to give 0.030 g (10% yield) of the titled compound.

reactant | 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.62 mmol, 0.18 g | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C14H12N4OS
reactant | 4-chloromethylbenzoyl chloride | 0.68 mmol, 0.13 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-{4-[4-carbamoyl-2-(naphthalen-2-ylamino)thiazol-5-ylcarbamoyl]benzyl}pyridinium chloride | 0.030 g, 10% yield | [Cl-].C(N)(=O)C=1N=C(SC1NC(=O)C1=CC=C(C[N+]2=CC=CC=C2)C=C1)NC1=CC2=CC=CC=C2C=C1 | InChI=1S/C27H21N5O2S.ClH/c28-24(33)23-26(35-27(30-23)29-22-13-12-19-6-2-3-7-21(19)16-22)31-25(34)20-10-8-18(9-11-20)17-32-14-4-1-5-15-32;/h1-16H,17H2,(H3-,28,29,30,31,33,34);1H
